US07384952B2
To a solution of the compound obtained in the above step (1) (200 mg) in tetrahydrofuran (4 mL) is added triethylamine (218 μL) and methanesulfonyl chloride (105 μL) under ice-cooling and the mixture is stirred for 30 minutes. The reaction mixture is diluted with ethyl acetate and thereto is added 10% citric acid solution. The mixture is extracted with ethyl acetate and the extract is washed successively with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. To the residue is dissolved in dimethylformamide (2 mL) and thereto is added 2M dimethylamine/tetrahydrofuran (2 mL). The mixture is stirred at room temperature for 2 days. The reaction mixture is diluted with ethyl acetate, washed with a saturated sodium hydrogencarbonate solution, and concentrated in vacuo. The residue purified by column chromatography on silica gel (Solvent; chloroform:methanol=100:0→90:10) to give methyl 4-[3-(dimethylamino)-1-propenyl]-benzoate (198 mg, yield; 87%) as an oil. MS (APCI) m/z; 220 [M+H]+

reactant | triethylamine | 218 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 105 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-[3-(dimethylamino)-1-propenyl]-benzoate | 198 mg, yield; 87% | CN(CC=CC1=CC=C(C(=O)OC)C=C1)C | C13H17NO2
